US05338755
A) N-Methyl-N-benzylbromoacetamide
At 0° C., a solution of 10 g of bromoacetyl bromide in 20 ml of DCM is added to a solution of 6 g of methylbenzylamine and 5 g of triethylamine in 50 ml of DCM. After one night at RT, ether is added, the precipitate formed is filtered off and the filtrate is concentrated to give 12 g of the expected product in crude form.

reactant | bromoacetyl bromide | 10 g | BrCC(=O)Br | C2H2Br2O
reactant | methylbenzylamine | 6 g | CNCC1=CC=CC=C1 | C8H11N
reactant | triethylamine | 5 g | C(C)N(CC)CC | C6H15N
reactant | ether | CCOCC | C4H10O
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | N-Methyl-N-benzylbromoacetamide | 12 g | CN(C(CBr)=O)CC1=CC=CC=C1 | C10H12BrNO
